2182-05-10 07:53:00 Physician Resident Progress Note
TITLE: MS 4 Progress Note
   Chief Complaint: PNA, critical AS
   24 Hour Events:
   - RT continued to suction moderate amounts of bloody secretions from ET
   tube and Hct decreased from 33.4 to 28.6.  Patient was transfused 1 u
   FFP and 1 u pRBC.
   - Patient
s PEEP decreased from 10 to 5 and later tried on pressure
   support, which she briefly tolerated before becoming more uncomfortable
   and she was placed back on CMV
   - She became transiently hypotensive with systolic BPs in the 100
   when she received propofol bolus and bag-mask ventilation; now resolved
   with SBP in 120
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-10**] 01:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-5-10**] 05:57 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-10**] 02:30 AM
   Lorazepam (Ativan) - [**2182-5-10**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-10**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 67 (55 - 77) bpm
   BP: 130/65(88) {79/42(54) - 155/76(106)} mmHg
   RR: 16 (11 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 6 (6 - 18)mmHg
   Total In:
                                                                     44 mL
                                                                    744 mL
   PO:
   TF:
   IVF:
                                                                     44 mL
                                                                    553 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    330 mL
                                                                    450 mL
   Urine:
                                                                    330 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (460 - 500) mL
   Vt (Spontaneous): 418 (418 - 490) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/58/101/33/9
   Ve: 6.7 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: Intubated, sedated
   HEENT: MMM, elevated JVP,
   CV: RRR, late-peaking 3/6 SEM
   Lungs: bronchial breath sounds, no wheeze
   Abd: Soft, non-tender, non-distended
   Ext: Warm, well-perfused, no edema
   Neuro: Responds to verbal stimuli
   Labs / Radiology
   89 K/uL
   9.7 g/dL
   199 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.5 mEq/L
   66 mg/dL
   102 mEq/L
   143 mEq/L
   28.6 %
   18.3 K/uL
        [image002.jpg]
                             [**2182-5-9**]  06:57 PM
                             [**2182-5-9**]  07:21 PM
                             [**2182-5-10**]  02:26 AM
                             [**2182-5-10**]  02:46 AM
                             [**2182-5-10**]  04:18 AM
   WBC
   22.4
   16.2
   18.3
   Hct
   33.4
   27.2
   28.6
   Plt
   95
   94
   89
   Cr
   1.5
   1.5
   TropT
   0.63
   0.62
   TCO2
   37
   38
   Glucose
   241
   199
   Other labs: PT / PTT / INR:20.5/37.9/1.9, CK / CKMB /
   Troponin-T:26/6/0.62, ALT / AST:51/41, Alk Phos / T Bili:176/1.8,
   Amylase / Lipase:/28, Differential-Neuts:96.9 %, Lymph:1.5 %, Mono:1.3
   %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.7
   g/dL, LDH:404 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   75F with h/o aortic stenosis, COPD, admitted to OSH with pneumonia,
   complicated by hypoxic respiratory failure requiring intubation, ARF,
   transferred for difficulty weaning and question of valvuloplasty.
   .
   #)Respiratory failure- Likely multifactorial, with contributions from
   apparent RLL PNA, pulmonary edema 2/2 systolic CHF requiring
   intermittent diuresis, RLL pleural effusion s/p 800cc thoracentesis
   (culture data not available), and an episode of pulmonary hemorhhage
   felt [**12-31**] anticoagulation.  Overnight she did not tolerate PS trial due
   to discomfort, but oxygenation has been adequate.  Bloody secretions
   suctioned overnight suggest that pulmonary bleed may be intermittently
   continuing.  Sputum culture growing yeast only.
   - hold off on further diuresis given concern for critical AS.
   - repeat bronch this am
   - review CT imaging tonight, consider CT CHEST following bronch
   - obtain TTE, consider TEE to evaluate mitral valve
   - continue vancomcyin/zosyn for HCAP.
   - f/u OSH blood, sputum, and thoracentesis cultures (call in AM, per
   LDH, fluid was transudative, but protein unknown, empyema unlikelygiven
   pH 7.5).
   - wean peep, repeat ABG tonight, consider trial PS.
   - continue prednisone, start tapering as below.
   .
   # aortic stenosis - report of critical AS on TTE at OSH.  unclear what
   her baseline functional status is, she does not have regular angina, or
   syncope
   - repeat TTE
   - consider cardiology consult in AM.
   - hold off on further diuresis, nitrates.
   .
   # ARF - no known renal dysfunction.  found to have mild left
   hydronephrosis at OSH, and seen by urology with plan to follow
   clinically.  ddx currently includes pre-renal [**12-31**] diuresis vs aortic
   stenosis, AIN [**12-31**] antibiotics, vs obstruction. Urine lytes suggest
   pre-renal etiology.
   - check UA/UCx.
   - check urine lytes.
   - renal ultrasound
   - follow UOP closely, if CVP < [**7-8**], gentle IVF boluses for
   UOP<30cc/hr.
   .
   # bacteremia - source unclear, but likely pulmonary given recent
   pneumonia.
   - continue vancomycin.
   - TTE in AM, and consider TEE.
   .
   # transaminitis - h/o autoimmune hepatitis, baseline unclear.  LFTs
   normal on admission to OSH, and on discharge ALT 49, AST AST 51,
   amylase 238.  abdominal usn and ct abd/pelvis at OSH without evidence
   of RUQ process, though elevated INR and low albumin suggest cirrhosis.
   Lipase not elevated
   - trend LFTs
   - repeat abdominal usn in AM.
   .
   # thrombocytopenia - more likely [**12-31**] underlying liver disease, now with
   reactive component to bacteremia and pneumonia.  ddx also includes DIC,
   HUS/TTP given mild ARF, and HITT, though time course is unclear (he
   received heparin sc tid and lovenox at OSH)
   - check smear to r/o schistocytes (ARF, anemia, thrombocytopenia).
   - check DIC labs.
   - check for HIT.
   .
   # COPD - unclear baseline [**Name (NI) 4232**], but not on home O2.  no clear wheezing
   on exam presently, so feel COPD less likely.
   - taper prednisone 60mg po qdaily to 50mg x3d.
   - continue albuterol, atrovent inhalers.
   - obtain OSH [**Name (NI) 4232**] in AM.
   .
   # h/o aortic valvular thrombus - chronically anticoagulated, though
   held in the setting of significant pulmonary hemhorrage (though only
   received 1U PRBC for this at OSH).   no thrombus seen on his recent TTE
   at OSH.
   - hold lovenox/coumadin for now, discuss with cardiology in AM based on
   repeat TTE here.
   - cardiology consult following echo.
   .
   # sacral decub - pt with new stage 2 sacral decubitus ulcer, does not
   probe to bone.
   - air mattress.
   - wound care consult.
   .
   # h/o hyponatremia - resolved presently
   - trend na daily.
   .
   # OA - receiving morphine 2mg po prn pain.  per husband, she takes
   percocet at home for pain, but he is unsure where.  a rheumatology note
   indicates she takes percocet for chronic intermittent chest wall pain.
   - continue morphine 0.5mg iv q6hr prn pain.
   .
   # anxiety - per husband, takes anti-anxiety medications at home, and
   receiving lorazepam 0.5-2mg q1hr prn agitation at OSH.
   - continue prn ativan, and monitor for s/sx of withdrawl.
   .
   # elevated FSBS - no known history of DM,  but on steroids, with
   elevated FSBS.
   - cover with HISS.
   .
   # h/o SVT
 monitor on tele
   .
   # HTN - hold lisinopril given ARF, avoid nitro gtt given AS.
   .
   # hyperlipidemia
hold home statin given transaminitis.
   .
   # FEN: NPO for now.
   - nutrition consult in AM re tube feeds.
   - consider replacing NGT with OGT if not getting extubated soon.
   .
   # Prophylaxis: pneumoboots, PPI.
   .
   # Access: PIV, L IJ TLC, A-LINE.
   .
   # Code: FULL CODE
   .
   # Communication: Patient, son [**Name (NI) **] [**Telephone/Fax (1) 9284**], [**Hospital3 **]
   floor [**Telephone/Fax (1) 9285**].
   .
   # Disposition: pending above
   ICU Care
   Nutrition: NPO, nutrition c./s
   Lines:
   Multi Lumen - [**2182-5-9**] 07:00 PM
   Arterial Line - [**2182-5-9**] 07:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   11:42
   ------ Protected Section ------
   Patient seen and examined. Agree with [**First Name9 (NamePattern2) 6490**] [**Location (un) 9289**] assessment and plan
   as above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5294**] [**Last Name (NamePattern1) 8766**], MD
   on:[**2182-5-10**] 12:23 ------

2182-05-11 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Bronch showed low-level oozing at lingula likely erosion but no
   bleeding deeper down. Seen by IP; cold saline injected. Recommended CT
   chest which showed gravity-dependent bibasilar consolidative opacities
   with areas of high-attenuation material in left base consistent with
   combination of atelectasis, hemorrhage, and infection.
   - Received 3 units FFP and 2 units of pRBC with appropriate bump to
   2^nd unit.
   - TTE done w/ post MV leaflet endocarditis, critical AS (area 0.5,
   gradient 151), moderate pulmonary artery systolic HTN
   - Started tube feeds
   - A-line attempted but unsuccessful on 1st attempt with development of
   small hematoma. No further attempts at this time as pt taken down to CT
   scan.
   - New central line placement deferred as no emergent need
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-10**] 01:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-5-11**] 06:08 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2182-5-10**] 01:28 PM
   Pantoprazole (Protonix) - [**2182-5-11**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 72 (53 - 81) bpm
   BP: 167/80(112) {87/42(57) - 167/80(112)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 12 (9 - 20)mmHg
   Total In:
                                                                  2,567 mL
                                                                    662 mL
   PO:
   TF:
                                                                    142 mL
   IVF:
                                                                  1,245 mL
                                                                    330 mL
   Blood products:
                                                                  1,172 mL
                                                                    189 mL
   Total out:
                                                                  1,165 mL
                                                                    320 mL
   Urine:
                                                                  1,165 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,402 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 450) mL
   Vt (Spontaneous): 505 (505 - 505) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.45/45/91/29/6
   Ve: 6.8 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen: Intubated, sedated
   HEENT: MMM, elevated JVP,
   CV: RRR, late-peaking 3/6 SEM
   Lungs: bronchial breath sounds
   Abd: Soft, non-tender, non-distended
   Ext: Warm, well-perfused, no edema
   Neuro: Responds to verbal stimuli
   Labs / Radiology
   80 K/uL
   11.4 g/dL
   124 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   68 mg/dL
   103 mEq/L
   143 mEq/L
   32.6
   18.0 K/uL
        [image002.jpg]
                             [**2182-5-10**]  12:05 PM
                             [**2182-5-10**]  12:21 PM
                             [**2182-5-10**]  05:30 PM
                             [**2182-5-10**]  05:43 PM
                             [**2182-5-10**]  08:26 PM
                             [**2182-5-10**]  09:52 PM
                             [**2182-5-10**]  10:07 PM
                             [**2182-5-11**]  01:42 AM
                             [**2182-5-11**]  03:49 AM
                             [**2182-5-11**]  04:11 AM
   WBC
   19.2
   12.5
   14.1
   18.0
   Hct
   30.9
   26.8
   26.5
   32.6
   38
   Plt
   81
   74
   74
   80
   Cr
   1.8
   TCO2
   38
   34
   35
   34
   34
   32
   Glucose
   124
   Other labs: PT / PTT / INR:14.3/28.7/1.2, CK / CKMB /
   Troponin-T:26/6/0.62, ALT / AST:51/41, Alk Phos / T Bili:176/1.8,
   Amylase / Lipase:/28, Differential-Neuts:96.9 %, Lymph:1.5 %, Mono:1.3
   %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7
   g/dL, LDH:404 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Abd U/S: gallbladder sludge and wall thickening (?[**12-31**] low albumin) but
   no cholelithiasis or cholecystitis. Also urothelial thickening of renal
   pelvices suggestive of chronic UTI, particularly fungal, and likely
   chronic renal disease. Possible chronic liver disease d/t subtle
   diffuse hepatic nodularity. B/l pleural effusion and min ascites.
   Assessment and Plan
   75F with h/o aortic stenosis, COPD, admitted to OSH with pneumonia,
   complicated by hypoxic respiratory failure requiring intubation, ARF,
   transferred for difficulty weaning and question of valvuloplasty.
   .
   #)Respiratory failure: Likely multifactorial with contributions from
   PNA, pulmonary edema 2/2 systolic CHF requiring intermittent diuresis
   and s/p drainage 800cc reportedly transudative fluid via R
   thoracentesis at OSH, and pulmonary hemorrhage felt [**12-31**] anticoagulation
   and ?trauma. Bronch yesterday showed lingular abrasion as likely
   source; continuing to suction bloody secretions. Sputum cx growing only
   yeast to date.
   - Patient appears to have been treated with full course of vanc/CTX.
   D/c zosyn and vanc.
   - F/u OSH cx (blood, sputum, thoracentesis)
   - Cycle Hct to ensure stable
   - Holding coumadin (also no longer e/o AV thrombus)
   - Gentle diuresis to run pt even
   - Wean PEEP, trial of pressure support as tolerated. Of note, intubated
   x 13 days, and may need to have trach.
   - Continue prednisone taper for COPD
   - F/u final read of CT chest
   .
   # Endocarditis
 Blood cultures positive on day 2 of hospital stay at
   [**Hospital1 **], now growing out pansensitive S. salivarius. TTE shows posterior
   MV leaflet endocarditis.
   - Start PCN for Strep viridans
   - ID consult for treatment course and outpt f/u of endocarditis
   - Daily ECGs to monitor for development of heart block
   .
   # AS: Critical AS on TTE. Unclear what her baseline functional status
   is, she does not have regular angina, or syncope
   - Will notify Cards on Monday of evaluation for possible valvuloplasty
   - Not candidate for AV replacement given clinical status
   - Gentle lasix for goal even
   - Avoid decreasing preload or inotropy
   .
   # ARF: No known renal dysfunction. Cr 1.2 at OSH and trending up. Found
   to have mild left hydronephrosis at OSH, and seen by Urology with plan
   to follow clinically. Abd U/S here did not report hydronephrosis but
   did have urothelial thickening suggesting chronic UTI (?fungal) as well
   as chronic renal dysfunction. Ddx currently includes pre-renal [**12-31**]
   diuresis vs aortic stenosis, AIN [**12-31**] antibiotics, vs obstruction. Urine
   lytes suggest pre-renal etiology.
   - Follow UOP closely, if CVP < [**7-8**], gentle IVF boluses for UOP<30cc/hr
   - F/u urine cx
   .
   # Transaminitis: H/o autoimmune hepatitis, baseline unclear.  LFTs
   normal on admission to OSH, and on discharge ALT 49, AST AST 51,
   amylase 238.  Abdominal U/S and CT abd/pelvis at OSH without evidence
   of RUQ process, though elevated INR and low albumin suggest cirrhosis.
   Abd u/s here suggests chronic liver disease. Pt currently w/o RUQ pain.
   Ddx includes congestive hepatopathy.
   - F/u LFTs today and trend
   - Gentle diuresis as above
   .
   # Thrombocytopenia: Stably decreased. Likely [**12-31**] underlying liver
   disease, now with reactive component to bacteremia and pneumonia.  Ddx
   also includes HITT. No schistocytes on smear to suggest [**Doctor First Name 2674**], and DIC
   unlikely with INR normalizing off coumadin and fibrinogen >100.
   - F/u HIT Ab
   .
   # COPD: Severe emphysema on CT chest with unclear baseline [**Name (NI) 4232**] but not
   on home O2.  No clear wheezing on exam presently, so feel acute
   exacerbation of COPD less likely.
   - Taper prednisone 60mg po qdaily to 50mg x3d.
   - Continue albuterol, atrovent inhalers.
   - Consider obtaining OSH [**Name (NI) 4232**]
   .
   # H/o aortic valvular thrombus: Chronically anticoagulated but held in
   the setting of significant pulmonary hemhorrhage (though only received
   1U PRBC for this at OSH). No thrombus seen on his recent TTE at OSH or
   here.
   - Systemic anticoagulation discontinued; can consider d/w Cards
   .
   # Sacral decub: Pt with new stage 2 sacral decubitus ulcer, does not
   probe to bone.
   - Air mattress.
   - F/u wound care recs
   .
   # H/o hyponatremia: Resolved presently
   - Trend Na daily.
   .
   # OA: Receiving morphine 2mg po prn pain.  Per husband, she takes
   percocet at home for pain, but he is unsure where.  A rheumatology note
   indicates she takes percocet for chronic intermittent chest wall pain.
   - Continue morphine 0.5mg IV q6hr prn pain.
   .
   # Anxiety: Per husband, takes anti-anxiety medications at home, and
   receiving lorazepam 0.5-2mg q1hr prn agitation at OSH.
   - Continue prn ativan, and monitor for s/sx of withdrawl.
   .
   # Elevated FSBS: No known history of DM, with elevated FSBS on steroids
   - Cover with HISS
   .
   # H/o SVT: Monitor on tele
   .
   # HTN: Holding lisinopril given ARF; avoid nitro or neg inotropes given
   AS
   .
   # Hyperlipidemia: Holding home statin given transaminitis.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2182-5-11**] 12:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-5-9**] 07:00 PM
   Arterial Line - [**2182-5-9**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Patient, son [**Name (NI) **] [**Telephone/Fax (1) 9284**], [**Name2 (NI) **] floor [**Telephone/Fax (1) 9285**].
   Code status: Full code
   Disposition: ICU

2182-05-12 06:50:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   [**2182-5-11**]
   - Blood cx from [**Hospital3 534**] grew Streptococcus salivarius sensitive
   to penicillin
   - Vanc/Zosyn d/c'ed and Pen G started.
   - PICC ordered, but not placed yet
   - BP's elevated to 210s/120s so labetolol push with excellent response.
   Labetolol gtt at bedside.
   - A-line placed in L wrist, R A-line pulled
   - Propafol changed to fent/midaz for IV compatibility and elevated
   Trigs.
   - Started on lasix gtt
   - Urine cx grew yeast
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-10**] 01:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-5-11**] 06:08 AM
   Penicillin G potassium - [**2182-5-12**] 06:01 AM
   Infusions:
   Furosemide (Lasix) - 2.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2182-5-11**] 09:57 AM
   Propofol - [**2182-5-11**] 09:57 AM
   Hydralazine - [**2182-5-11**] 01:42 PM
   Labetalol - [**2182-5-11**] 02:10 PM
   Midazolam (Versed) - [**2182-5-11**] 06:32 PM
   Fentanyl - [**2182-5-11**] 06:32 PM
   Pantoprazole (Protonix) - [**2182-5-12**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-12**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 51 (44 - 86) bpm
   BP: 119/49(72) {97/45(63) - 199/91(133)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
    CVP: 6 (6 - 14)mmHg
   Total In:
                                                                  2,270 mL
                                                                    553 mL
   PO:
   TF:
                                                                    744 mL
                                                                    243 mL
   IVF:
                                                                  1,077 mL
                                                                    210 mL
   Blood products:
                                                                    189 mL
   Total out:
                                                                  1,990 mL
                                                                    860 mL
   Urine:
                                                                  1,990 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 388 (388 - 388) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.46/45/106/30/6
   Ve: 7 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Gen: Intubated, sedated
   HEENT: MMM, elevated JVP,
   CV: RRR, late-peaking 3/6 SEM
   Lungs: bronchial breath sounds
   Abd: Soft, non-tender, non-distended
   Ext: Warm, well-perfused, no edema
   Neuro: Responds to verbal stimuli
   Labs / Radiology
   95 K/uL
   9.5 g/dL
   152 mg/dL
   1.8 mg/dL
   30 mEq/L
   3.7 mEq/L
   76 mg/dL
   107 mEq/L
   145 mEq/L
   27.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2182-5-10**]  10:07 PM
                             [**2182-5-11**]  01:42 AM
                             [**2182-5-11**]  03:49 AM
                             [**2182-5-11**]  04:11 AM
                             [**2182-5-11**]  10:55 AM
                             [**2182-5-11**]  10:57 AM
                             [**2182-5-11**]  06:40 PM
                             [**2182-5-11**]  06:50 PM
                             [**2182-5-12**]  03:49 AM
                             [**2182-5-12**]  04:09 AM
   WBC
   18.0
   15.0
   Hct
   32.6
   38
   33.3
   27.8
   Plt
   80
   95
   Cr
   1.8
   1.9
   1.8
   TCO2
   34
   34
   32
   31
   31
   33
   Glucose
   124
   200
   152
   Other labs: PT / PTT / INR:14.0/27.8/1.2, CK / CKMB /
   Troponin-T:26/6/0.62, ALT / AST:52/43, Alk Phos / T Bili:213/2.0,
   Amylase / Lipase:/27, Differential-Neuts:96.9 %, Lymph:1.5 %, Mono:1.3
   %, Eos:0.1 %, Fibrinogen:298 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:357 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.9 mg/dL
   TTE: The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity is unusually
   small. Overall left ventricular systolic function is normal (LVEF 70%).
   The right ventricular cavity is dilated with focal hypokinesis of the
   apical free wall. The aortic valve leaflets are severely
   thickened/deformed. The mitral valve leaflets are moderately thickened.
   There is a large globular mass on the posterior mitral valve leaflet.
   There is severe mitral annular calcification. There is moderate
   thickening of the mitral valve chordae. There is mild functional mitral
   stenosis due to mitral annular calcification. Moderate (2+) mitral
   regurgitation is seen. [Due to acoustic shadowing, the severity of
   mitral regurgitation may be significantly UNDERestimated.] The
   tricuspid valve leaflets are mildly thickened. The supporting
   structures of the tricuspid valve are thickened/fibrotic. There is
   moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   Compared with the findings of the prior study (images reviewed) of [**2178-10-20**], the left atrial myxoma is no longer present. There is
   now a mass on the posterior mitral leaflet consistent with
   endocarditis.
   ABD U/S:
   1. Gallbladder sludge with wall thickening, which may be secondary to
   the
   patient's low albumin. No cholelithiasis. No specific sign of
   cholecystitis.
   2. Urothelial thickening involving the renal pelves bilaterally, right
   greater than left, and given the bilateral findings, this may represent
   chronic urinary tract infections, particularly fungal. Clinical
   correlation
   is recommended. Also increased echogenicity of the kidneys bilaterally,
   likely reflecting chronic medical renal disease.
   3. Subtle diffuse hepatic nodularity, suggesting the possibility of
   chronic
   liver disease.
   4. Bilateral pleural effusions and minimal ascites.
   Assessment and Plan
   75F with h/o aortic stenosis, severe COPD, admitted to OSH with
   pneumonia, complicated by hypoxic respiratory failure requiring
   intubation, ARF, transferred for difficulty weaning and valvuloplasty
   for critical AS and found to have mitral valve endocarditis.
   .
   #)Respiratory failure: Likely multifactorial with contributions from
   severe COPD, PNA, pulmonary edema 2/2 systolic CHF requiring
   intermittent diuresis and s/p drainage 800cc reportedly transudative
   fluid via R thoracentesis at OSH, and pulmonary hemorrhage felt [**12-31**]
   anticoagulation and ?trauma with lingular abrasion; continuing to
   suction bloody secretions. Sputum cx growing only yeast to date.
   - Patient was treated with full course of vanc/zosyn for HAP
   - F/u OSH cx (blood, sputum, thoracentesis)
   - Cycle Hct to ensure stable
   - Holding coumadin (also no longer e/o AV thrombus)
   - Gentle diuresis to run pt even
   - Wean PEEP, trial of pressure support as tolerated. Of note, intubated
   x 13 days, and may need to have trach.
   - Continue prednisone taper for COPD exacerbation
   # Mitral Valve Endocarditis
 Blood cultures positive on day 2 of
   hospital stay at [**Hospital1 **], now growing out pansensitive S. salivarius.
   TTE shows posterior MV leaflet endocarditis.
   - Cte PCN for Strep salivarius (6 week course started on [**4-30**])
   - ID consult for treatment course and outpt f/u of endocarditis
   - Daily ECGs to monitor for development of heart block
   # AS: Critical AS on TTE. Unclear what her baseline functional status
   is, she does not have regular angina, or syncope
   - Will notify Cards on Monday of evaluation for possible valvuloplasty
   - Not candidate for AV replacement given clinical status and
   endocarditis
   - Gentle lasix with gtt for goal even
   - Avoid decreasing preload or negative inotropy
   # Anemia:  Has bloody secretions from ET tube and guaiac positive
   stools.
   - Cycle hcts [**Hospital1 **]
   - Transfuse for hct<21
   - check hemolysis labs and retic
   .
   # ARF: No known h/o renal dysfunction. Cr 1.2 at OSH and trending up.
   Found to have mild left hydronephrosis at OSH, and seen by Urology with
   plan to follow clinically. Abd U/S here did not report hydronephrosis
   but did have urothelial thickening suggesting chronic UTI (?fungal) as
   well as chronic renal dysfunction. Ddx currently includes pre-renal [**12-31**]
   diuresis vs aortic stenosis, AIN [**12-31**] antibiotics, vs obstruction. Urine
   lytes suggest pre-renal etiology.
   - Follow UOP closely, if CVP < [**7-8**], gentle IVF boluses for UOP<30cc/hr
   - Given + yeast in UA and radiologic finding suggestive of possible
   fungal UTI change foley, repeat UCx today if persists will rx.
   # Transaminitis: H/o autoimmune hepatitis, baseline unclear.  LFTs
   normal on admission to OSH, and on discharge ALT 49, AST AST 51,
   amylase 238.  Abdominal U/S and CT abd/pelvis at OSH without evidence
   of RUQ process, though elevated INR and low albumin suggest cirrhosis.
   Abd u/s here suggests chronic liver disease. Pt currently w/o RUQ pain.
   Ddx includes congestive hepatopathy and autoimmune process.
   - F/u LFTs today and trend
   - Gentle diuresis as above
   - Holding statin
   # Thrombocytopenia: Stably decreased. Likely [**12-31**] underlying liver
   disease, now with reactive component to bacteremia and pneumonia.  Ddx
   also includes HITT. No schistocytes on smear to suggest [**Doctor First Name 2674**], and DIC
   unlikely with INR normalizing off coumadin and fibrinogen >100.
   - F/u HIT Ab
   - Consider hemolysis from endocarditis->will check labs today
   # H/o aortic valvular thrombus: Chronically anticoagulated but held in
   the setting of significant pulmonary hemhorrhage (though only received
   1U PRBC for this at OSH). No thrombus seen on TTE at OSH or here.
   - Systemic anticoagulation discontinued; can consider d/w Cards utility
   of continuing anti-coagulation when stable
   # Sacral decub: Pt with new stage 2 sacral decubitus ulcer, does not
   probe to bone.
   - Air mattress.
   - F/u wound care recs
   .
   # HTN: Worsens in setting of anxiety. Holding lisinopril given ARF;
   avoid nitro or neg inotropes given AS. Labetolol was effective for her
   last pm. Would use this again if necessary.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2182-5-12**] 05:56 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2182-5-9**] 07:00 PM
   Arterial Line - [**2182-5-11**] 05:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  oral care
   Comments:
   Communication:  Comments: With family and patient
   Code status: Full code
   Disposition:ICU

2182-05-18 09:59:00 Physician Attending Progress Note
Chief Complaint: endocarditis, resp failure, CHF, critical AS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2182-5-17**] 05:26 PM
   shows multiple emobolic phenomenon
   Neck CT: no abscess limited study
   Blood Tx w HCT bump
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Penicillin G potassium - [**2182-5-18**] 01:41 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2182-5-18**] 06:12 AM
   Other medications:
   Chlorhex, Kcl, insulin slid scale, Pred 30 qd, PPI, Valium, Fent patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-18**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 74 (43 - 102) bpm
   BP: 164/85(114) {102/38(65) - 166/94(114)} mmHg
   RR: 23 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  2,073 mL
                                                                  1,142 mL
   PO:
           TF:
                                                                    642 mL
                                                                    345 mL
   IVF:
                                                                    562 mL
                                                                    224 mL
   Blood products:
                                                                    280 mL
                                                                    278 mL
   Total out:
                                                                  1,000 mL
                                                                    580 mL
   Urine:
                                                                  1,000 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,073 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 412 (380 - 412) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.44/38/73.[**Numeric Identifier 607**]/28/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Gen: thin chronically ill woman lying in bed, awake, nods to ?
   CV: RR 3/6 AS and [**3-4**] sys murmur
   Chest: fair air movement
   Abd: soft Nt +BS
   Ext: wasted
   Neuro: PERRL, reactive,
   Labs / Radiology
   11.5 g/dL
   102 K/uL
   147 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.6 mEq/L
   97 mg/dL
   103 mEq/L
   142 mEq/L
   31.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2182-5-17**]  01:51 AM
                             [**2182-5-17**]  03:42 AM
                             [**2182-5-17**]  01:06 PM
                             [**2182-5-17**]  03:19 PM
                             [**2182-5-17**]  09:50 PM
                             [**2182-5-18**]  12:08 AM
                             [**2182-5-18**]  12:51 AM
                             [**2182-5-18**]  04:44 AM
                             [**2182-5-18**]  05:26 AM
                             [**2182-5-18**]  08:35 AM
   WBC
   15.2
   17.4
   17.3
   Hct
   22.5
   24.4
   20.5
   25.8
   31.3
   Plt
   129
   132
   102
   Cr
   2.2
   1.8
   2.1
   TCO2
   31
   32
   29
   27
   Glucose
   139
   147
   147
   Other labs: PT / PTT / INR:11.8/24.9/1.0, CK / CKMB /
   Troponin-T:26/6/0.62, ALT / AST:34/66, Alk Phos / T Bili:314/5.7,
   Amylase / Lipase:/27, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:3.3
   %, Mono:3.2 %, Eos:0.4 %, Fibrinogen:298 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.7 g/dL, LDH:357 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:5.6
   mg/dL
   Assessment and Plan
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 ANEMIA, OTHER
 .H/O AORTIC STENOSIS
 ENDOCARDITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 HYPERTENSION, BENIGN
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   1.       Embolic CVA: in setting of known endocarditis, had refused
   surgery in past. Continue PCN via PICC for 6w course. Need to discuss
   this issue with family as hope been for rehab soon- may still be able
   to go but goals may evolve
   2.       Resp Failure: with transition from VAC to PSV - major issues
   requiring mechanical ventilation include resolving pneumonia (off abx),
   AS/CHF, and COPD flare. Will continue low dose lasix gtt for volume
   removal and continue steroid taper. Follow up final face / neck CT for
   odontogenic infection.
   3.       For critical AS, plan has been valvuloplasty once stable and
   off abx. But embolkc CVA likely prevents this fopr now and maybe ever
   4.        ARF is stable, [**Street Address(1) 9332**] meds and monitor closely while
   on lasix. For hypernatremia, will continue FWB via G-tube. Remainder of
   plan as outlined above.
   5.       T bili rising
 DDx hemolysis, acalc choly, repeat and check
   RUQ US after fam meeting if plans are tocontinue aggressive care
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-5-11**] 05:24 PM
   PICC Line - [**2182-5-13**] 04:32 AM
   Prophylaxis:
   DVT: HITT? Serotonin assay pending, no anticoag at present given
   Stress ulcer: PPI
   VAP: HOB chlorhex, HOB,
   Communication:  family updated yesterday but will try to meet again
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2182-05-19 12:11:00 Physician Attending Progress Note
Chief Complaint: endocarditis, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2182-5-18**] 11:00 AM
   RUQ US GB contraction with sludge and thickened walls
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Penicillin G potassium - [**2182-5-19**] 10:11 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2182-5-18**] 10:06 PM
   Lansoprazole (Prevacid) - [**2182-5-19**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-19**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 74 (68 - 92) bpm
   BP: 155/70(92) {139/65(69) - 164/90(107)} mmHg
   RR: 25 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,192 mL
                                                                    978 mL
   PO:
             TF:
                                                                  1,337 mL
                                                                    427 mL
   IVF:
                                                                  1,082 mL
                                                                    221 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  1,275 mL
                                                                    820 mL
   Urine:
                                                                  1,275 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,917 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 375 (305 - 437) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 122
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.40/46/91/24/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen: thin chronically ill woman lying in bed, awake, nods to ?
   CV: RR 3/6 AS and [**3-4**] sys murmur
   Chest: fair air movement
   Abd: soft Nt +BS
   Ext: wasted
   Neuro: PERRL, reactive,
   Labs / Radiology
   10.9 g/dL
   101 K/uL
   139 mg/dL
   2.0 mg/dL
   24 mEq/L
   4.8 mEq/L
   99 mg/dL
   104 mEq/L
   143 mEq/L
   32.8 %
   18.6 K/uL
        [image002.jpg]
                             [**2182-5-17**]  03:19 PM
                             [**2182-5-17**]  09:50 PM
                             [**2182-5-18**]  12:08 AM
                             [**2182-5-18**]  12:51 AM
                             [**2182-5-18**]  04:44 AM
                             [**2182-5-18**]  05:26 AM
                             [**2182-5-18**]  08:35 AM
                             [**2182-5-18**]  05:45 PM
                             [**2182-5-18**]  05:57 PM
                             [**2182-5-19**]  05:02 AM
   WBC
   17.4
   17.3
   18.6
   Hct
   24.4
   20.5
   25.8
   31.3
   32.2
   32.8
   Plt
   132
   102
   101
   Cr
   1.8
   2.1
   2.0
   TCO2
   29
   27
   30
   Glucose
   147
   147
   139
   Other labs: PT / PTT / INR:12.6/25.9/1.1, CK / CKMB /
   Troponin-T:26/6/0.62, ALT / AST:36/68, Alk Phos / T Bili:339/6.2,
   Amylase / Lipase:/27, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:3.3
   %, Mono:3.2 %, Eos:0.4 %, Fibrinogen:298 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.8 g/dL, LDH:357 IU/L, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 ANEMIA, OTHER
 .H/O AORTIC STENOSIS
 ENDOCARDITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 COAGULOPATHY
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 HYPERTENSION, BENIGN
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   1.       Embolic CVA: in setting of known endocarditis, had refused
   surgery in past. Continue PCN via PICC for 6w course. Need to discuss
   this issue with family as hope been for rehab soon- may still be able
   to go but goals may evolve. They would like t o hear reccs from CT [**Doctor First Name 458**]
 however since she had been clear about not wanting another surgery in
   past we will need to have a full discussion. Dr [**Last Name (STitle) 5648**] to see pt today
   to evaluate if she were even a candidate. Question are would she need
   AVR and MVR and with CVA could she tolerate acoag for bypass (this is
   aside from issue of whether she would even agree)
   2.       Resp Failure: no longer able to do PSV - ? combo since CVA and
   also getting a bit volume overloaded. AS/CHF, and COPD flare. Will
   restart low dose lasix bolus vs. gtt for volume removal and continue
   steroid taper. Try again PSV in AM
   3.       For critical AS, plan has been valvuloplasty once stable and
   off abx. But embolkc CVA likely prevents this for now and maybe ever
   4.        ARF is stable, [**Street Address(1) 9332**] meds and monitor closely while
   on lasix.
   5.            T bili rising
 DDx hemolysis, acalc choly, repeat and
   check RUQ US without acute change. Checking  hemolysis labs
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2182-5-19**] 12:06 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-13**] 04:32 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  need to have a full family meeting tomm to discuss
   options in light of new CVA, active endocarditis, desire not for
   surgery, and overall goals of care
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent:35